US05532112
4-(2-Hydroxyethoxy)phenyl 2-hydroxy-2-propyl ketone (IIa)
336 g (3.2 mol) of isobutyryl chloride are added dropwise over the course of 40 minutes while stirring to 880 g. (8.8 mol) of anhydrous aluminium chloride in 480 ml of dichloromethane at -5 to 0° C. 540 g. (3.0 mol) of 2-phenoxyethyl acetate are then added dropwise over the course of 2 hours at the same temperature. The reaction mixture is stirred for a further 2 hours at the stated temperature and then poured into a mixture of 1.8 l of concentrated hydrochloric acid and 5 kg of ice. The organic phase is separated off and the aqueous layer is extracted with dichloromethane. The combined organic phases are washed with water, dried and evaporated, and the residue is distilled in vacuo. 740 g. of 4-(2-acetoxyethoxy)phenyl-2-propyl ketone of boiling point 145-152° C./0.3-0.5 torr are obtained. b) 205 g. (1.0 mol) of 4-(2-acetoxyethoxy)phenyl 2-propyl ketone are dissolved in 200 ml of glacial acetic acid, and 192 g. (1.2 mol) of bromine are added over the course of 2 hours with stirring at 25° C. The mixture is then stirred for about a further 10 hours and then poured into 3 L of ice water. The product is extracted with ethyl acetate. The combined extracts are dried, and 365 g. of a viscous oil are obtained by evaporation. This oil is dissolved in 1 L of ethanol, and 380 g. of 32% strength sodium hydroxide solution are added over the course of 20 minutes with stirring at 25° C. The mixture is stirred for a further 10 minutes and the ethanol is then removed. The oily residue is transferred into 3 l of ice water, and this mixture is extracted repeatedly with a total of 1.5 l of ethyl acetate. After drying, filtering and evaporating the solution, 250 g. of an oily crude product are isolated. Through recrystallization from acetone/petroleum ether and/or chromatographic purification, 145 g of 4-(2-hydroxyethoxy)phenyl 2-hydroxy-2-propyl ketone are obtained in the form of a colourless solid of melting point 88°-90° C.

reactant | 4-(2-acetoxyethoxy)phenyl 2-propyl ketone | 1.0 mol | CC(C)C(=O)C1=CC=C(C=C1)OCCOC(C)=O | C14H18O4
reactant | bromine | 1.2 mol | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 4-(2-Hydroxyethoxy)phenyl 2-hydroxy-2-propyl ketone | OC(C)(C)C(=O)C1=CC=C(C=C1)OCCO | C12H16O4
